US06355615B1
At 0° C., 200 ml of trifluoromethanesulfonic acid were initially charged and 20 g (0.0217 mol) of 8,20-dibenzyl-5,11,17,23-tetraisobutyl-2,4,10,14,16,22-hexamethyl-1,7,13,19-tetraoxa-4,10,16,22-tetraaza-cyclotetracosan-6,9,12,18,21,24-hexaone (1-b) (for example from Ex. 1) and 6.2 g (0.0434 mmol) of N-hydroxymethyl-ε-caprolactam were added successively, and the mixture was stirred at room temperature for 20 h. The mixture was then poured onto ice, neutralized by addition of solid sodium bicarbonate and subsequently extracted with dichloromethane. The combined extracts were washed with little water, dried and concentrated. The resulting 26 g of crude product were separated by MPLC. The first main fraction gave 1.22 g of singly amidoalkylated compound 20-benzyl-8-[4-(2-oxoazepan-1-ylmethyl)benzyl]-5,11,17,23-tetraisobutyl-2,4,10,14,16,22-hexamethyl-1,7,13,19-tetraoxa-4,10,16,22-tetraaza-cyclotetracosan-6,9,12,18,21,24-hexaone (20-a). After intermediate fractions of a total of 4.21 g, 5.59 g of doubly amidoalkylated compound 8.20-bis-[4-(2-oxoazepan-1-ylmethyl)benzyl]-5,11,17,23-tetraisobutyl-2,4,10,14,16,22-hexamethyl-1,7,13,19-tetraoxa-4,10,16,22-tetraaza-cyclotetracosan-6,9,12,18,21,24-hexaone (20-b) were obtained.

reactant | 8,20-dibenzyl-5,11,17,23-tetraisobutyl-2,4,10,14,16,22-hexamethyl-1,7,13,19-tetraoxa-4,10,16,22-tetraaza-cyclotetracosan-6,9,12,18,21,24-hexaone | 0.0217 mol, 20 g | C(C1=CC=CC=C1)C1OC(C(N(CC(OC(C(N(C(C(OC(C(N(CC(OC(C(N(C1=O)C)CC(C)C)=O)C)C)CC(C)C)=O)CC1=CC=CC=C1)=O)C)CC(C)C)=O)C)C)CC(C)C)=O | C52H80N4O10
reactant | N-hydroxymethyl-ε-caprolactam | 0.0434 mmol, 6.2 g | OCN1C(CCCCC1)=O | C7H13NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | trifluoromethanesulfonic acid | 200 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 20-benzyl-8-[4-(2-oxoazepan-1-ylmethyl)benzyl]-5,11,17,23-tetraisobutyl-2,4,10,14,16,22-hexamethyl-1,7,13,19-tetraoxa-4,10,16,22-tetraaza-cyclotetracosan-6,9,12,18,21,24-hexaone | C(C1=CC=CC=C1)C1OC(C(N(CC(OC(C(N(C(C(OC(C(N(CC(OC(C(N(C1=O)C)CC(C)C)=O)C)C)CC(C)C)=O)CC1=CC=C(C=C1)CN1C(CCCCC1)=O)=O)C)CC(C)C)=O)C)C)CC(C)C)=O | C59H91N5O11
